US07544701B2
Preparation of N-[2-(Dimethylamino)ethyl]benzene-1,2-diamine
A mixture of N,N-dimethyl-N′-(2-nitrophenyl)ethane-1,2-diamine (3.83 g, 18.3 mmol) and Raney-Nickel (0.5 g) in methanol is treated dropwise with hydrazine (5 mL), stirred at room temperature until reaction is complete by TLC, treated with Celite and MgSO4 and filtered. The filtercake is washed with methanol. The combined filtrate is concentrated in vacuo to give the title compound as a brown oil, 3.11 g (94% yield), identified by HPLC and mass spectral analyses.

reactant | N,N-dimethyl-N′-(2-nitrophenyl)ethane-1,2-diamine | 18.3 mmol, 3.83 g | CN(CCNC1=C(C=CC=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | hydrazine | 5 mL | NN | H4N2
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | methanol | CO | CH4O
catalyst | Raney-Nickel | 0.5 g | [Ni] | Ni
product | N-[2-(Dimethylamino)ethyl]benzene-1,2-diamine | 94% yield | CN(CCNC=1C(=CC=CC1)N)C | C10H17N3
